Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
egg / peanut
 
Attending: ___.
 
Chief Complaint:
"I was anxious about school and crying a lot and having thoughts 
about wanting to die."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ yo F with a PMHx significant for previous 
diagnoses of ___ II, anxiety and ADHD who arrived sent in on a 
___ and presents endorsing
worsening suicidal thoughts in the setting of academic stress 
and  worries about her social life.

She states that she has been having overwhelming anxiety and has 
been having mood swings and feeling like she is spiraling and 
that her bipolar type II is "acting up".

She states that thoughts of self-harm began several weeks ago 
over ___, and although she has had fleeting thoughts in 
the past on different ways she could accomplish suicide, she 
reports that her current SI is more concerning.  She expresses 
ambivalance about her intent to commit suicide and states she is 
unsure how much are compulsive thoughts vs actually
thinking she would harm herself.  She expresses that she feels 
unsure if she would seek help if she were seriously considering 
suicide.  She says she is still opposed to suicide and notes 
cultural barriers to considering suicide.

She received a diagnosis of Bipolar Type II by a psychiatrist in 
___.  He told her she had mood swings, manic episodes and 
a lot of negative feelings.  She describes previous manic 
episodes that are marked by labile mood with shouting, anger and 
has punched a cupboard or a wall.  She also previously broke a 
stool.  She denies any previous violence towards people.  She 
notes that
even when she "acts out" she tries to be safe about it and will 
wrap her hands in cloth to avoid injury.  She states she is able 
to stay safe and even when she acts on her compulsions.

She endorses taking daily bipolar, ADHD and anxiety medications. 
 She also received a diagnosis ADHD because she had difficulty 
concentrating in class.  There was also thoughts that she might 
be exhibiting avoidance behaviors and might have symptoms of 
panic attacks.

She states that she has panic attacks with hyperventilation and 
heart beating.  She states that she has had up to 2/day.  She 
states that sometimes they are experienced overnight and 
sometimes the panic attacks are triggered by work.  She states 
that even her panic attacks overnight occur when she wakes up 
and
is worried about work.  She states she had untriggered panic 
attacks when she was younger.  She stated that she just started 
seeing at therapist around work-based anxiety.  She reports not 
finding previous therapy not helpful.  She reports that she did 
previously try CBT, but was poorly engaged and did not keep 
logs.

She also endorses social anxiety and worries that she may not be 
as close to people as she thought she was.  She notes that she 
was very lonely during her first semester, but recently has more 
friends and states this has improved.  She says sometimes she 
feels paranoid that people don't like.  She denies close
confidants at school, but states she can discuss these issues 
with her family.

Per encounter note from Dr. ___ at ___: "Met 
with student in tri___, endorses SI with increased intensity of 
thoughts she had in the past.  She has been having 
non-hallucinatory ways to commit suicide.  She offers family and 
religion as protective factors, but does not believe she could 
reach out for help.  She has plans to jump off a building or 
into traffic.  She has been waking up with panic racing heart 
and SOB due to anxiety about not being
able to reach out for help."

 
Past Medical History:
Psychiatric Dx:  ___. ADHD, social anxiety, anxiety, panic 
attacks 
Psychiatric Hospitalizations: none 
Current treaters and treatment: 
 - Psychiatrist Dr. ___ - ___,
 - Therapist - ___ ___ (___)
Medication and ECT trials: seroquel, antianxiety, 
antidepressants, strattera 
Self-injury/Suicide attempts: Denies SAs, sometimes when 
stressed
tugs at hair or scratches eczema more  
Harm to others: Denies 
Access to weapons: Denies access to guns or knives 

PAST MEDICAL HISTORY:
Asthma
Eczema 
Allergies from pollution in ___ 
Head trauma ___ yo, no LOC, received stitches

 
Social History:
___
Family History:
Fam Dx: 
 - Mother - ?depression, ?ADHD,
 - Father - ?ADHD 
 - Brother - ___, ADHD
Fam Hospitalizations: none 
Fam Hx Suicide: none 

 
Physical Exam:
  *VS:  BP: 127/63 HR: 73 temp: 97.4 resp: 16 O2 sat: 100%  
  Neurological:
  *station and gait: wnl
  *tone and strength: wnl; moving upper and lower extremities
spontaneously and with full range of motion.
    cranial nerves: CN II-XII in tact and symmetric; no focal
deficits. 
    abnormal movements: none observed.
  *Appearance: NAD. Age-appearing Asian woman who appears stated
age.  Evidence of eczema on bilateral antecubital regions of
arms.  
  Behavior: Appropriate with appropriate eye contact, 
cooperative
with interview. Less guarded today with no psychomotor
retardation/agitation. 
  *Mood and Affect: "better;" affect more full-range today,
non-labile, mood-congruent.
  *Thought process: Logical and goal directed. No loosening of
associations. No apparent disorganization.
  *Thought Content: Denies current suicidal thoughts, plans, and
actions. Denies HI.  Does not appear to be responding to 
internal
stimuli.  
  *Judgment and Insight: Improved, patient now forward thinking 
in her psychiatric care
  *Attention, *orientation, and executive function: Alert and
oriented x 3.
  *Memory: In tact to observation
  *Fund of knowledge: Average
  *Speech: Spontaneous. Regular rate, rhythm and prosody.  
  *Language: Fluent ___ speaker. No apparent paraphrasic
errors.

 
Pertinent Results:
___ 06:20PM BLOOD WBC-7.8 RBC-4.37 Hgb-12.5 Hct-38.4 MCV-88 
MCH-28.6 MCHC-32.6 RDW-11.8 RDWSD-38.0 Plt ___
___ 06:20PM BLOOD Neuts-63.0 ___ Monos-6.4 Eos-6.8 
Baso-0.5 Im ___ AbsNeut-4.93 AbsLymp-1.80 AbsMono-0.50 
AbsEos-0.53 AbsBaso-0.04
___ 06:20PM BLOOD Plt ___
___ 06:20PM BLOOD Glucose-87 UreaN-8 Creat-0.6 Na-138 K-3.9 
Cl-101 HCO___ AnGap-14
___ 06:20PM BLOOD estGFR
___ 06:20PM BLOOD TSH-1.1
___ 06:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
would have expired on ___.  They were also placed on Q5 
minute checks status on admission and advanced to Q15 minute 
checks by hospital day 2.

2. PSYCHIATRIC:
#Unspecified bipolar and related disorder
 - Diagnostically, patient had no electrolyte or laboratory 
abnormalities, and her TSH was within normal limits.  
 - Patient was provided individual, group, and milieu therapy
 - Increased home quetiapine to 12.5 mg QHS with additional 12.5 
mg available Q6H PRN for anxiety, insomnia.  Patient did not 
require additional PRN doses.  
 - Continued home antipsychotic medication given that she has 
been stable on it for several years, Amisulpride (Solian) 200 mg 
PO QHS.  As this medication is not available in the ___ 
___, patient brought in her own medications and these were 
administered while she was hospitalized.  
#ADHD:
- Continued home atomoxetine 25 mg QAM

3. SUBSTANCE USE DISORDERS: 
None

4. MEDICAL
#Eczema: Eucerin and Aquaphor emollients QID PRN dry skin 
#Asthma: Stable prior to admission without the need for inhalers

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient's mother flew into ___ from ___ to provide 
family support.  She visited during both hospital days, and a 
family meeting was held prior to discharge.  Patient's mother 
will stay with patient until the end of the semester and ensure 
that she has appropriate follow-up with her ___ 
therapist as well as her ___ psychiatrist once she 
returns there for the summer.

#) INTERVENTIONS
- Medications: Continued all home medications and increased 
Quetiapine dose from 6.25 to 12.5 mg PO QHS with good effect and 
tolerance.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Made two attempts to make 
appointment with therapist ___, but was unable to 
reach her office.  Instructed patient to make an appointment 
within one week of discharge from the hospital.  
- Behavioral Interventions: Encouraged coping mechanisms
- Guardianships: None

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
increasing the dose of Quetiapine, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
recent intensifying suicidal ideation.  Their static factors 
noted at that time include, history of abuse chronic mental 
illness, history of impulsivity, young age, and single status.  

The patient also came in with modifiable risk factors, which 
include:
- Suicidal ideation, which was addressed by providing 
individual, group, and milieu therapy, as well as continuing 
psychiatric medications and augmenting the dose of quetiapine.  
- Familial stressors, including being far from family, which was 
addressed with the assistance of patient's mother who actively 
participated in the stabilization of patient and aftercare 
planning.  Patient's mom will remain in ___ until the end of 
the semester, after which they will return to ___ 
together.  

Finally, the patient is being discharged with many protective 
risk factors, including future-oriented viewpoint, sense of 
responsibility to family, reality testing ability, positive 
therapeutic relationship with outpatient providers, no active 
substance abuse and strong familial supports.   

Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others.   Overall, given the above, the patient's 
prognosis of this patient is good.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 6.25 mg PO QHS 
2. Atomoxetine 25 mg oral QAM 
3. Amisulpride 200 mg PO QHS

 
Discharge Medications:
1. QUEtiapine Fumarate 12.5 mg PO QHS 
2. Atomoxetine 25 mg oral QAM 
3. Amisulpride 200 mg PO QHS
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified bipolar and related disorder

 
Discharge Condition:
Patient currently stable.  Stating that her mood is improved and 
denies any current suicidal ideation or plan.  She is 
forward-thinking, proposing strategies that can reduce her 
stress level during her next semester.  She will return to ___ 
___ together with her mother at the end of the semester.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

-We were unable to reach your therapist, ___, to 
schedule an appointment.  Please make an appointment to see her 
within one week of discharge.  

-Please continue all medications as directed.

-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.

-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___